Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
iodine
 
Attending: ___
 
___ Complaint:
hemorrhoid
 
Major Surgical or Invasive Procedure:
hemorrhoidectomy 

 
History of Present Illness:
___ is a healthy ___ school___ who has
had long-standing issues with difficulty with defecation.  She
has been evaluated for constipation as well as for rectal
prolapse and prolapsing internal anal hemorrhoids.  For her part
she reports some type of mass emanating emanating from her anus
when she defecates.  In addition she has a lot of ongoing mucus
and occasional blood which drained spontaneously into her pants. 

She underwent colonoscopy a few months ago which did not
demonstrate any reticular abnormality such as enlarged
hemorrhoids or proctitis.  She has otherwise maintained 
perfectly
normal continence.

 
Past Medical History:
Asthma
HTN
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM:  no increased work of breathing, inspiratory and 
expiratory
wheezing bilaterally 
ABD: soft, NT, ND
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect

 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for a 
hemorrhoidectomy. She tolerated the procedure well but had 
complaints of dyspnea post-operatively and was admitted for 
observation. (Please see operative note for further details). 
After a brief stay in the PACU, the patient was transferred to 
the floor for further post-operative management.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

On ___, the patient was discharged to home/rehab/etc. At 
discharge, he/she was tolerating a regular diet, passing flatus, 
 voiding, and ambulating independently. He/She will follow-up in 
the clinic in ___ weeks. This information was communicated to 
the patient directly prior to discharge.

Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] None

Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath   
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you presented to the hospital for a hemmorhoidectomy and were 
admitted for dyspnea while recovering from your procedure. 

You may have pain with bowel movements and will see some rectal 
bleeding for several days. You should wear pads to prevent 
spotting and should take stool softeners daily to prevent 
straining during bowel movements. 

You have been prescribed oxycodone for pain relief. You should 
take Tylenol ___ every 8 hours and ibuprofen 800mg every 8 
hours and stagger these medications 4 hours apart so that you 
are taking one of these medications every 4 hours. You should 
then take your oxycodone as prescribed only as needed. Oxycodone 
will slow down your bowels and can lead to constipation and 
should only be taken for breakthrough pain. Please do not drive 
or make any major decisions while taking narcotic medications. 

 
Followup Instructions:
___